US07977331B1
To a solution of (S)-3-(4-benzyloxyphenyl)-2-tert-butoxycarbonylaminopropionic acid (5.00 g, 13.5 mmol) and 1-hydroxybenzotriazole monohydrate (2.50 g, 16.1 mmol) in N,N-dimethylformamide (50 ml) were added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (3.10 g, 16.1 mmol) and 28% aqueous ammonia solution (5 ml) under ice-cooling, and the mixture was stirred at room temperature for 24 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:ethyl acetate=2:1-1:1) to give tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-carbamoylethyl]carbamate (1.53 g, yield 31%).

reactant | (S)-3-(4-benzyloxyphenyl)-2-tert-butoxycarbonylaminopropionic acid | 13.5 mmol, 5.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C21H25NO5
reactant | 1-hydroxybenzotriazole monohydrate | 16.1 mmol, 2.50 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 16.1 mmol, 3.10 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | 5 ml | N | H3N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-carbamoylethyl]carbamate | 1.53 g, yield 31% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(N)=O)NC(OC(C)(C)C)=O | C21H26N2O4
